US07071175B1
MeLi (5.34 mL, 8.54 mmol, 1.6 M in diethyl ether) was added dropwise to a slurry of CuI (0.74 g, 3.88 mmol) in THF (5 mL) at −78° C. under argon and the mixture was stirred for 30 min. A solution of 2-(1-tert-butoxycarbonyl-piperidin4-ylmethylene)-malonic acid diethyl ester (0.69 g, 1.94 mmol) in THF (5 mL) was added dropwise and the reacton mixture was stirred for 120 min at −78° C. and was then allowed to warm to room temperature during 60 min. Concentrated aqueous NH4OH was added and the mixture was then extracted with EtOAc, washed with concentrated aqueous NH4OH and brine, dried and concentrated under reduced pressure. The crude was purified by flash chromatography (heptane/EtOAc, 3:1→1:6) to give 2-[1-(1-tert-butoxycarbonyl-piperidin-4-yl)-ethyl]-malonic acid diethyl ester (0.39 g, 54%).

reactant | MeLi | 8.54 mmol, 1.6 M, 5.34 mL | [Li]C
reactant | 2-(1-tert-butoxycarbonyl-piperidin4-ylmethylene)-malonic acid diethyl ester | 1.94 mmol, 0.69 g | C(C)OC(C(C(=O)OCC)=CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H29NO6
reactant | NH4OH | [NH4+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | CuI | 3.88 mmol, 0.74 g | [Cu]I
product | 2-[1-(1-tert-butoxycarbonyl-piperidin-4-yl)-ethyl]-malonic acid diethyl ester | 0.39 g, 54% | C(C)OC(C(C(=O)OCC)C(C)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H33NO6
